US05138069
Preparation of Methyl 2-butyl-4-chloro-1-[4-(trifluoromethylsulfonamido)benzyl]imidazole-5-acetate
A solution of triflic anhydride (0.88 mL, 5.2 mmol, 1 eq) in methylene chloride (5 mL) was dripped into a solution of methyl 2-butyl-1-(4-aminobenzyl)-4-chloroimidazole-5-acetate (1,74 g, 5.2 mmol, 1 eq) and triethylamine (1.44 mL, 10.4 mmol, 2 eq) in 20 mL of methylene chloride at -78° C. The solution was kept at -78° C. for 1 hour after which it was allowed to warm to room temperature. After 24 hours, the reaction was quenched with water (100 mL) and the pH adjusted to 5 with conc. HCl and the aqueous extracted with methylene chloride (5×100 mL). The organic layers were dried (MgSO4), concentrated, and the residue flash chromatographed in 1:1 hexane/ethyl acetate on silica gel. The crystalline product which formed in the 1:1 hexane/ethyl acetate solution while the crude product was being applied to the column was isolated (1.03 g). Chromatography of the mother liquor yielded an additional 1.03 g of the title compound as a white solid; m.p. 154.0°-157.0°. The product could be titrated with 1 equivalent of 1.000N NaOH. NMR (200 MHz, CDCl3) δ7.32 (d, 2H, J=10 Hz; 6.91 (d, 2H, J=10 Hz); 5.15 (s, 2H); 3.62 (s, 3H); 3.46 (s, 2H); 2.55 (t, 2H, J=7 Hz); 1.56 (m, 2H); 1.26 (m, 2H); 0.72 (t, 3H, J=7 Hz). Mass Calcd. for C18H21N3O4SF3Cl: 467.0890. Found: 467.0872.

reactant | triflic anhydride | 5.2 mmol, 0.88 mL, 1 eq | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | methyl 2-butyl-1-(4-aminobenzyl)-4-chloroimidazole-5-acetate | 5.2 mmol, 1,74 g, 1 eq | C(CCC)C=1N(C(=C(N1)Cl)CC(=O)OC)CC1=CC=C(C=C1)N | C17H22ClN3O2
reactant | triethylamine | 10.4 mmol, 1.44 mL, 2 eq | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-butyl-4-chloro-1-[4-(trifluoromethylsulfonamido)benzyl]imidazole-5-acetate | 1.03 g | C(CCC)C=1N(C(=C(N1)Cl)CC(=O)OC)CC1=CC=C(C=C1)NS(=O)(=O)C(F)(F)F | C18H21ClF3N3O4S
